US03954852
acetylbenzene
A mixture of 6-fluoro-2-methyl-4-(4'-methylsulfinylphenyl indanone) (30.2 gm.), cyanoacetic acid (10.5 gm.), acetic acid (6.6 g.) and ammonium acetate (1.7 gm.) in dry toluene (20 ml.) is refluxed with stirring for 24 hours while the water is removed continuously in a Dean-Stark separator. The toluene is concentrated, the residue dissolved in 200 ml. of 4 N potassium hydroxide solution (100 ml. ethanol, 100 ml. water) and refluxed for 12 hours. The aqueous solution is evaporated to remove the ethanol, filtered and then acidified with concentrated HCl solution. The preceipitated 6-fluoro-2- 4-(p-methylsulfinylphenyl)-indenyl-1-acetic acid is collected and dried at 70° C in the vacuum oven.

reactant | cyanoacetic acid | 10.5 gm | C(#N)CC(=O)O | C3H3NO2
reactant | acetic acid | 6.6 g | C(C)(=O)O | C2H4O2
reactant | ammonium acetate | 1.7 gm | C(C)(=O)[O-].[NH4+]
reactant | water | O | H2O
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | acetylbenzene | C(C)(=O)C1=CC=CC=C1 | C8H8O
